US05969139
A solution of 10 g of 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-nitrophenyl)-1,8(2H,5H)-acridinedione in 190 ml of ethanol and 100 ml of 1M hydrochloric acid was hydrogenated at atmospheric temperature and pressure in the presence of 0.5 g of 10% palladium on carbon catalyst. When hydrogen uptake had ceased, the catalyst was removed by filtration and the filtrate evaporated. The residue was dissolved in water (20 ml) and the solution made alkaline by addition of excess 1M sodium carbonate solution. The precipitated solid was filtered off, washed with water and dried giving 9.0 g of 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-aminophenyl)-1,8(2H,5H)-acridinedione as a pale brown solid; mass spectrum (ESP) m/e 365 [M+H]+.

reactant | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-nitrophenyl)-1,8(2H,5H)-acridinedione | 10 g | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C23H26N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 190 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1M, 100 ml | Cl | ClH
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-aminophenyl)-1,8(2H,5H)-acridinedione | 9.0 g | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)N)=O)C | C23H28N2O2
